US03980633
15 parts of 1-phenyl-4-amino-5,6-dichloropyridazinium chloride is slowly introduced into a melt of 50 parts of urea (temperature about 130°C). After fifteen minutes the melt is cooled and 150 parts of a 10% by weight caustic soda solution is added. A crystalline substance separates out (melting point 180° to 181°C after having been recrystallized from acetonitrile) which is dissolved in 50 parts of concentrated hydrochloric acid. The hydrochloric acid solution is evaporated and the oil which remains is caused to crystallize with a mixture of butyl acetate and alcohol. 11.5 parts (82.5% of theory) of 1-phenyl-4-amino-5-chloro-6-aminopyridazinium chloride is obtained; C10H10N4Cl2. The substance melts at above 300°C. The chlorine number is 27.9% (calculated 27.65%). The perchlorate melts at 160° to 163°C.

reactant | 1-phenyl-4-amino-5,6-dichloropyridazinium chloride | [Cl-].C1(=CC=CC=C1)[N+]1=NC=C(C(=C1Cl)Cl)N
reactant | urea | NC(=O)N | CH4N2O
reactant | caustic soda | [OH-].[Na+]
product | 1-phenyl-4-amino-5-chloro-6-aminopyridazinium chloride | 82.5% | [Cl-].C1(=CC=CC=C1)[N+]1=NC=C(C(=C1N)Cl)N | InChI=1S/C10H9ClN4.ClH/c11-9-8(12)6-14-15(10(9)13)7-4-2-1-3-5-7;/h1-6H,(H3,12,13);1H
